Name:  ___.                 Unit No:   ___
 
Admission Date:  ___              Discharge Date:   ___
 
Date of Birth:  ___             Sex:   M
 
Service: MEDICINE
 
Allergies: 
No Known Allergies / Adverse Drug Reactions
 
Attending: ___.
 
Chief Complaint:
Lightheadedness, Nausea, Vomiting
 
Major Surgical or Invasive Procedure:
None
 
History of Present Illness:
Mr. ___ is a ___ yo male with history of likely vagal mediated 
syncope who presents this evening after a pre-syncopal event 
accompanied by dizziness, lightheadedness and vomiting. 

Pt reports that his symptoms began this afternoon after he 
arrived home from work. He had a glass of wine at home and then 
began to feel dizzy and lightheaded, went to have a bowel 
movement and developed vomiting and dry heaving. He felt 
extremely weak and was unable to stand, unable to call for help. 
His symptoms came on very suddenly. He denies any chest pain but 
was noted to be diaphoretic by his wife. He called his doctor, 
who advised him to come to the ED, but given that he was unable 
to stand, his wife called an ambulance. Of note, pt reports that 
he did not eat lunch today and had no fluid intake this 
afternoon. He did take his lisinopril this morning. 

On EMS arrival, he was noted to be cool and clammy, reportedly 
orthostatic with pulse in 50-60s. On arrival to the ED, initial 
vitals 97 38 138/70 18 97%. Labs were notable for creatinine 1.2 
(baseline 0.9), mildly elevate ALT at baseline. Given his 
bradycardia, cardiology was consulted but did not feel that any 
intervention was necessary. He received 2L NS with improvement 
in his symptoms, though failed PO challenge and had recurrent 
vomiting so he is admitted to medicine. Vitals on transfer: 97.8 
68 133/66 18 99% RA.

Currently, pt reports that he feels better, but still not 
himself. He was able to ambulate to the bathroom without 
assistance, but felt unsteady on his feet. He denies any sick 
contacts. He has been to the ___ recently but denies any tick 
bites or rashes

Of note, pt reports a long history of lightheadeness, most 
notably when going from seated to standing position. He did have 
one true syncopal episode many years ago in the setting of blood 
draws. He also get lightheaded when at high altitudes or in tall 
buildings. He also reports a history of slow pulse, normally in 
the ___. His antihypertensive medications have been adjusted 
recently due to lightheadedness.
 
Past Medical History:
# History of rectal cancer in ___:  He completed neoadjuvant 
continuous infusion, ___ and radiation and then had surgery in 
___.  Surgery showed ulcerating adenocarcinoma of the 
rectosigmoid.  The tumor did invade through intestinal lining. 
There were no regional lymph node metastases.  He had four 
months of adjuvant chemotherapy with ___ and leucovorin.  This 
ended in ___ and he has had no recurrent disease.  
# OSA
# hyperlipidemia

 
Social History:
___
Family History:
Mother: ___, cholesterol
Father: prostate cancer in ___, cholesterol
MGM: colon cancer
 

 
Physical Exam:
ADMISSION PHYSICAL EXAM:
Vitals-  98.3 136/76 70 20 98% RA
General- Alert, oriented, no acute distress  
HEENT- Sclera anicteric, MMM, oropharynx clear  
Neck- supple, JVP not elevated, no LAD  
Lungs- Clear to auscultation bilaterally, no wheezes, rales, 
ronchi  
CV- Regular rate and rhythm, normal S1 + S2, no murmurs, rubs, 
gallops  
Abdomen- soft, non-tender, non-distended, bowel sounds present, 
no rebound tenderness or guarding, no organomegaly  
GU- no foley  
Ext- warm, well perfused, 2+ pulses, trace pedal edema
Neuro- CNs2-12 intact, motor function grossly normal  

DISCHARGE PHYSICAL EXAM:
VITALS: Tm98.3 Tc 98.2, 134/72, HR 54 (48-70), 20, 99%RA
GEN: Slightly overweight man in no acute distress, able to sit 
up and ambulate around his room comfortably
HEENT: MMM, EOMI, NCAT
NECK: supple, no masses, JVD ___
CV: Bradycardic but regular, no MRG, normal S1, S2
RESP: Good airmovement, CTAB
ABD: Non-tender, non-distended
EXTR: warm, no edema, good distal pulses
GU: No foley
NEURO: facial expression full and symmetric, LT sensation equal 
throughout, Motor ___ throughout, ROmberg negative, gait 
narrow-based and steady; normal FTN and alternating hand 
movmement.

 
Pertinent Results:
ADMISSION LABS:
___ 07:44PM BLOOD WBC-6.6 RBC-4.65 Hgb-15.4 Hct-42.0 MCV-90 
MCH-33.2* MCHC-36.7* RDW-13.1 Plt ___
___ 07:44PM BLOOD Neuts-81.1* Lymphs-13.2* Monos-4.6 
Eos-0.6 Baso-0.4
___ 07:44PM BLOOD Glucose-126* UreaN-23* Creat-1.2 Na-140 
K-4.1 Cl-103 HCO3-25 AnGap-16
___ 07:44PM BLOOD ALT-59* AST-33 TotBili-0.7
___ 07:44PM BLOOD Lipase-28
___ 07:44PM BLOOD cTropnT-<0.01
___ 07:44PM BLOOD Albumin-4.9 Calcium-9.2 Phos-2.8 Mg-1.9
___ 06:40AM BLOOD TSH-0.46

DISCHARGE LABS:

___ 06:40AM BLOOD WBC-7.6 RBC-4.35* Hgb-14.4 Hct-39.2* 
MCV-90 MCH-33.1* MCHC-36.8* RDW-13.4 Plt ___
___ 06:40AM BLOOD Glucose-108* UreaN-18 Creat-0.9 Na-143 
K-3.9 Cl-108 HCO3-27 AnGap-12
___ 06:40AM BLOOD Calcium-8.4 Phos-3.4 Mg-2.___RIEF SUMMARY STATEMENT:  Mr. ___ is a ___ yo male with history 
of recurrent situational syncope in the past presenting with 
presyncopal symptoms in the setting of poor PO intake over the 
course of 1 day in addition to the sensation of impending 
defecation.

ACTIVE ISSUES:
#  Presyncope: The patient's symptoms were found to be 
consistent with a vagal episode with a possible component of 
orthostatic hypotension. He was markedly bradycardic in the ED, 
which would support a vagal episode, but could also certainly 
have been the cause of his pre-syncope as well. He likely has 
underlying high vagal tone at baseline given his chronic sinus 
bradycardia without evidence of heart block.  The patient was 
given intravenous fluids in the ED and he was evaluated by 
cardiology, who did not feel that his bradycardia was likely 
causative for his symptoms; however, if his symptoms were truly 
just due to a vagal episode, one would have expected complete 
resolution within several minutes and not prolonged symptoms 
hours out.  The patient was admitted for observation overnight.  
A repeat ECG revealed no abnormalities other than a prolonged 
QTc at approximately 470 msec.  The patient was notified of this 
abnormality and instructed to tell his doctors about it if given 
new medications.  Other possible etiologies include a viral 
illness, leading to recurrent vomiting, and causing a vagal 
state or possibly viral labrynthitis or similar peripheral cause 
of dizziness, though he does not decribe true vertigo. No 
suspicion of central cause such as posterior circulation CVA as 
neuro exam normal.   On the day of discharge, the patient was 
tolerating oral intake and was walking the floor without 
symptoms.  He remained hemodynamically stable with heart rate at 
his baseline of upper ___ to lower ___.  He was discharged with 
PCP ___. 

#  ___: The patient was found to have an elevated creatinine to 
1.2 from baseline 0.9 on admission, likely prerenal secondary to 
poor PO intake on day of admission.  His creatinine rapidly 
returned to baseline after given several liters of intravenous 
fluids.  Otherwise resolved. 

CHRONIC ISSUES:

# Hypertension:  Given the patient's episode of lightheadedness 
and pre-syncope, the patient's lisinopril was discontinued.  He 
was instructed to ___ with his primary care doctor 
regarding the reinitation of this medication.

# Erectile Dysfunction:  The patient occasionally takes viagra.  
He has not taken this medication in several weeks time.  
However, given his episode of pre-syncope and likely 
hypotension, we discharged the patient with the instructions to 
hold on resuming this medication until primary care ___.

# Hyperlipidemia:  Stable.  Continued patient's statin.

# GERD:  Stable.  Continued patient's omeprazole.

TRANSITIONAL ISSUES:
- Lisinopril / Viagra:  These medications were held given this 
pre-syncopal episode.  We instructed the patient to discuss 
resuming this medication with his PCP.
- Echocardiogram:  Could consider outpatient echo, but was not 
indicated during this hospitalization.
- Borderline prolonged QTc (470s):  We discussed this with the 
patient and he is aware that he should be aware of various 
medications that may effect his QTc.
 
Medications on Admission:
The Preadmission Medication list is accurate and complete.
1. Lisinopril 2.5 mg PO DAILY 
2. Omeprazole 40 mg PO DAILY 
3. Viagra (sildenafil) 100 mg Oral PRN 
4. Simvastatin 20 mg PO DAILY 
5. Ascorbic Acid ___ mg PO DAILY 
6. Aspirin 81 mg PO DAILY 

 
Discharge Medications:
1. Ascorbic Acid ___ mg PO DAILY 
2. Aspirin 81 mg PO DAILY 
3. Omeprazole 40 mg PO DAILY 
4. Simvastatin 20 mg PO DAILY 

 
Discharge Disposition:
Home
 
Discharge Diagnosis:
Primary: 
- Nausea and vomiting, unknown etiology

Secondary:
- Hyperlipidemia
- Obstructive sleep apnea
 
Discharge Condition:
Mental Status: Clear and coherent.
Level of Consciousness: Alert and interactive.
Activity Status: Ambulatory - Independent.
 
Discharge Instructions:
Dear Mr. ___,
It was a pleasure caring for you here at ___. You were 
admitted with dizziness, nausea, and vomiting. You were evaluted 
with EKGs and continuous overnight heart monitoring that showed 
only a slow heart rate, which you have had in the past. Your 
thyroid function was normal, as were your blood cell counts. 
Your electrolytes and renal function showed signs of mild 
dehydration, but this impoved with IV fluids. Please continue to 
drink plenty of fluids at home ___ glasses per day). It is 
possible that your nausea, vomiting, dizziness and feeling that 
you were nearlying passing out were caused by "vasovagal 
presyncope". Please use caution when having blood drawn or 
straining to have a bowel movement as this can increase your 
risk of "vasovagal" symptoms.  Please follow up with your PCP as 
listed below. 
 
Followup Instructions:
___